US04070539
Step A: Ethyl (1-Oxo-2ethyl-6,7-dichloro-5indanyloxy)-acetate
A mixture of 2-ethyl-5-hydroxy-6,7-dichloro-1-indanone (9.8 g., 0.04 mole), dimethylformamide (30 ml.), potassium carbonate (12.5 g., 0.09 mole) and ethyl bromoacetate (15 g., 0.09 mole) is stirred and heated on a water bath at 60° C. for one hour. The reaction mixture is poured into ice water (200 ml.) and extracted with two 50 ml. portions of ether. The ether extract is washed with water, dried over magnesium sulfate and the ether distilled at reduced pressure. The ethyl (1-oxo-2-ethyl-6,7-dichloro-5-indanyloxy)acetate thus obtained melts at 116°-118° C. after recrystallization from ethyl alcohol.

reactant | 2-ethyl-5-hydroxy-6,7-dichloro-1-indanone | 0.04 mole, 9.8 g | C(C)C1C(C2=C(C(=C(C=C2C1)O)Cl)Cl)=O | C11H10Cl2O2
reactant | potassium carbonate | 0.09 mole, 12.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl bromoacetate | 0.09 mole, 15 g | BrCC(=O)OCC | C4H7BrO2
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | Ethyl (1-Oxo-2ethyl-6,7-dichloro-5indanyloxy)-acetate | O=C1C(CC2=CC(=C(C(=C12)Cl)Cl)OCC(=O)OCC)CC | C15H16Cl2O4
